US07435837B2
(±)-[(N-methyl-1-[7-(2,5-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine
The title compound was prepared (0.027 g, 60%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-(2,5-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.060 g, 0.14 mmol) and methylamine (0.045 g, 1.4 mmol). mp 172-174° C.

reactant | (±)-[7-(2,5-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.14 mmol, 0.060 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC(=C2)F)F | C22H18F2O4S
reactant | methylamine | 1.4 mmol, 0.045 g | CN | CH5N
product | N-methyl-1-[7-(2,5-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | CNCC1OC2=C(C1)C=CC=C2C2=C(C=CC(=C2)F)F | C16H15F2NO
